US08664220B2
Step 3: [1-(4′-{3-Methyl-4-[1-(3-phenyl-isoxazol-5-yl)-ethylamino]-isoxazol-5-yl}-biphenyl-4-yl)-cyclopropyl]-acetic acid
[1-(4′-{3-Methyl-4-[1-(3-phenyl-isoxazol-5-yl)-ethylamino]-isoxazol-5-yl}-biphenyl-4-yl)-cyclopropyl]-acetic acid ethyl ester (0.0861 g, 0.157 mmol) was dissolved in THF (2 mL) then EtOH (1 mL) and NaOH (3N aq., 0.157 mL, 0.472 mmol) was added and the reaction stirred at 60° C. overnight. The reaction was submitted to standard workup procedure and purified via preparatory HPLC (0.1% TFA/H2O/ACN) to afford the title compound.

reactant | [1-(4′-{3-Methyl-4-[1-(3-phenyl-isoxazol-5-yl)-ethylamino]-isoxazol-5-yl}-biphenyl-4-yl)-cyclopropyl]-acetic acid ethyl ester | 0.157 mmol, 0.0861 g | C(C)OC(CC1(CC1)C1=CC=C(C=C1)C1=CC=C(C=C1)C1=C(C(=NO1)C)NC(C)C1=CC(=NO1)C1=CC=CC=C1)=O | C34H33N3O4
reactant | EtOH | 1 mL | CCO | C2H6O
reactant | NaOH | 0.472 mmol, 3N, 0.157 mL | [OH-].[Na+]
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | [1-(4′-{3-Methyl-4-[1-(3-phenyl-isoxazol-5-yl)-ethylamino]-isoxazol-5-yl}-biphenyl-4-yl)-cyclopropyl]-acetic acid | CC1=NOC(=C1NC(C)C1=CC(=NO1)C1=CC=CC=C1)C1=CC=C(C=C1)C1=CC=C(C=C1)C1(CC1)CC(=O)O | C32H29N3O4
